US06313122B1
Preparation of N1-(4-Methoxybenzoyl)-N2-[1-(5-nitrofuran-2-ylmethyl)piperidin-4-ylcarbonyl]-1,2-benzenediamine
Using the general procedure described in Example 3, N1-(4-methoxybenzoyl)-N2-(piperidin-4-ylcarbonyl)-1,2-benzenediamine (0.14 mmol) was reacted with 5-nitro-2-furaldehyde to provide 30 mg of the title product as the free base. Treatment with hydrochloric acid and concentration in vacuo yielded the salt of the title compound.

reactant | N1-(4-methoxybenzoyl)-N2-(piperidin-4-ylcarbonyl)-1,2-benzenediamine | 0.14 mmol | COC1=CC=C(C(=O)NC=2C(=CC=CC2)NC(=O)C2CCNCC2)C=C1 | C20H23N3O3
reactant | 5-nitro-2-furaldehyde | [N+](=O)([O-])C1=CC=C(O1)C=O | C5H3NO4
product | N1-(4-Methoxybenzoyl)-N2-[1-(5-nitrofuran-2-ylmethyl)piperidin-4-ylcarbonyl]-1,2-benzenediamine | 30 mg | COC1=CC=C(C(=O)NC=2C(=CC=CC2)NC(=O)C2CCN(CC2)CC=2OC(=CC2)[N+](=O)[O-])C=C1 | C25H26N4O6
